US07312222B2
Step A. Preparation of (+/−)-N-(t-butoxycarbonyl)-3-(carboethoxy)-3-(phenylmethyl)-piperidine.
To a stirring solution of N-(t-butoxycarbonyl)-3-(carboethoxy)-piperidine (800 mg, 3.11 mmol) in dry THF (10 mL) at −78° C. was added a 0.6M solution of sodium hexamethyldisilazide in toluene (5.7 mL). The reaction was stirred for 1 h when benzyl bromide (559 mg, 3.27 mmol) was added. After 1 h, the reaction was warmed to room temperature for 15 h. The reaction was quenched by the addition of 1M HCl (10 mL). The reaction was extracted with EtOAc (4×20 mL). The organic layers were combined, washed with brine, dried over Na2SO4, and conc. in vacuo to an oil. The oil was purified by flash chromatography (SiO2, 5–15% EtOAc in hexanes) to yield 606 mg of the product as a colorless oil. MS (ESI) 348 (M+H).

reactant | N-(t-butoxycarbonyl)-3-(carboethoxy)-piperidine | 3.11 mmol, 800 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)OCC | C13H23NO4
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | benzyl bromide | 3.27 mmol, 559 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | toluene | 5.7 mL | C1(=CC=CC=C1)C | C7H8
product | (+/−)-N-(t-butoxycarbonyl)-3-(carboethoxy)-3-(phenylmethyl)-piperidine | 606 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)(CC1=CC=CC=C1)C(=O)OCC | C20H29NO4
